US07498337B2
5-({4-[(methylamino)methyl]-2-phenyl-1H-pyrrol-1-yl}sulfonyl)nicotinonitrile hydrochloride
A mixture of tert-butyl({1-[(5-bromopyridin-3-yl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}methyl)methylcarbamate (112 mg), zinc cyanide (50 mg) and N,N-dimethylformamide (4 mL) was degassed with argon gas. Tetrakis(triphenylphosphine)palladium (46 mg) was added, and the mixture was stirred at 100 degree C. for 1.5 hr. After cooling the reaction mixture to room temperature, a saturated aqueous sodium-hydrogencarbonate solution was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=19:1→3:2) to give a colorless oil. The obtained oil was dissolved in ethanol (2 mL), and a 4 mol/L hydrogen chloride-ethyl acetate solution (2 mL) was added. After stirring at room temperature for 1 hr, the mixture was concentrated under reduced pressure, and recrystallized from ethanol to give the title compound as a solid (yield 32.7 mg, 42%).

reactant | tert-butyl({1-[(5-bromopyridin-3-yl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}methyl)methylcarbamate | 112 mg | C(C)(C)(C)OC(N(C)CC1=CN(C(=C1)C1=CC=CC=C1)S(=O)(=O)C=1C=NC=C(C1)Br)=O | C22H24BrN3O4S
reactant | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
reactant | hydrogen chloride-ethyl acetate | 4 mol/L, 2 mL | C(C)(=O)OCC.Cl
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | zinc cyanide | 50 mg | [C-]#N.[Zn+2].[C-]#N
product | 5-({4-[(methylamino)methyl]-2-phenyl-1H-pyrrol-1-yl}sulfonyl)nicotinonitrile hydrochloride | yield 32.7 mg, 42% | Cl.CNCC=1C=C(N(C1)S(=O)(=O)C=1C=NC=C(C#N)C1)C1=CC=CC=C1 | InChI=1S/C18H16N4O2S.ClH/c1-20-10-15-8-18(16-5-3-2-4-6-16)22(13-15)25(23,24)17-7-14(9-19)11-21-12-17;/h2-8,11-13,20H,10H2,1H3;1H
